US05866560
Under the conditions of Example 1o, 3.03 g of 3-benzyloxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),14-tetraen-17β-ol with 2.31 g of p-toluenesulfonic anhydride in 58 ml of pyridine is reacted, worked up and chromatographed on silica gel. 3 g of 3-benzyloxy-7α-(5-tosyloxy-pentyl)-estra-1,3,5(10),14-tetraen-17β-ol is obtained as foam.

reactant | 3-benzyloxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),14-tetraen-17β-ol | 3.03 g | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3C4=CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)CCCCCO | C30H38O3
reactant | p-toluenesulfonic anhydride | 2.31 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | pyridine | 58 ml | N1=CC=CC=C1 | C5H5N
product | 3-benzyloxy-7α-(5-tosyloxy-pentyl)-estra-1,3,5(10),14-tetraen-17β-ol | 3 g | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3C4=CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)CCCCCOS(=O)(=O)C1=CC=C(C)C=C1 | C37H44O5S
